US07138533B2
6-(6-Bromohexanoyl)-2H-1,4-benzoxazin-3(4H)-one
Using 2H-1,4-benzoxazin-3(4H)-one (15.0 g) and 6-bromohexanoyl chloride (2.5.8 g) according to the same method as that of Reference Example 1, the title compound (1.4.8 g) was obtained as colorless crystals.

reactant | 2H-1,4-benzoxazin-3(4H)-one | 15.0 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | 6-bromohexanoyl chloride | BrCCCCCC(=O)Cl | C6H10BrClO
product | 6-(6-Bromohexanoyl)-2H-1,4-benzoxazin-3(4H)-one | BrCCCCCC(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C14H16BrNO3
